US07728183B2
A 250 mL Hastelloy shaker tube was loaded with 60 g (0.51 mole) chlorosulfuric acid (HOSO2Cl), cooled in liquid nitrogen, evacuated and loaded with 60 g (0.45 mole) of 1,1,3,3,3-pentafluoropropene. The reaction vessel was allowed to warm and kept on a shaker at 20° C. at autogenous pressure for 24 hours. After 24 hours, the pressure tube was unloaded, and the reaction mixture quenched by ice and the organic layer washed with 5% sodium bicarbonate, water and dried under MgSO4. After distillation, 81.3 g of CF3CH2CF2OSO2Cl was obtained containing 6% of CF3CH2CF2OSO2F.

reactant | chlorosulfuric acid | 0.51 mole, 60 g | S(O)(=O)(=O)Cl | ClHO3S
reactant | 1,1,3,3,3-pentafluoropropene | 0.45 mole, 60 g | FC(=CC(F)(F)F)F | C3HF5
product | CF3CH2CF2OSO2Cl | 81.3 g | C(F)(F)(F)CC(F)(F)OS(=O)(=O)Cl | C3H2ClF5O3S
